US08440664B2
To 4-(2,4-dichlorophenyl)-5-formyl-2-morpholin-4-ylthiophene-3-carbonitrile (52.0 mg, 0.000142 mol) in tert-butyl alcohol (0.75 g, 0.010 mol) was added 1,2-diaminopropane (12.9 mg, 0.000174 mol) and the mixture was stirred for 30 min. Iodine (51 mg, 0.00020 mol) and potassium carbonate (65.7 mg, 0.000475 mol) was added the mixture was stirred at 70° C. for 3 hr. The reaction mixture was quenched by saturated sodium bicarbonate solution and brine. The organic layer was collected and purified by column chromatography to afford 4-(2,4-dichlorophenyl)-5-(4-methyl-4,5-dihydro-1H-imidazol-2-yl)-2-morpholinothiophene-3-carbonitrile (19 mg, 32%). LCMS: (FA) ES+ 421. 1H NMR (400 MHz, d1-chloroform) δ: 7.60 (s, 1H), 7.50-7.40 (m, 1H), 7.40-7.30 (m, 1H), 4.20-4.05 (m, 1H), 3.90-3.75 (m, 5H), 3.60-3.70 (m, 4H), 3.38-3.20 (m, 1H), 1.25 (s, 3H).

reactant | 4-(2,4-dichlorophenyl)-5-formyl-2-morpholin-4-ylthiophene-3-carbonitrile | 0.000142 mol, 52.0 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C=O)N1CCOCC1)C#N | C16H12Cl2N2O2S
reactant | tert-butyl alcohol | 0.010 mol, 0.75 g | C(C)(C)(C)O | C4H10O
reactant | 1,2-diaminopropane | 0.000174 mol, 12.9 mg | NCC(C)N | C3H10N2
reactant | Iodine | 0.00020 mol, 51 mg | II | I2
reactant | potassium carbonate | 0.000475 mol, 65.7 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-(2,4-dichlorophenyl)-5-(4-methyl-4,5-dihydro-1H-imidazol-2-yl)-2-morpholinothiophene-3-carbonitrile | 19 mg, 32% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C=1NCC(N1)C)N1CCOCC1)C#N | C19H18Cl2N4OS
